US08895544B2
5-Ethyl-2-fluoro-4-{3-[5-(6-phenoxy-pyridin-3-ylmethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol
The title compound was prepared from 6-phenoxy-pyridine-3-carbaldehyde (39 mg, 198 μmol) and 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 132 μmol) using the method of Example 22. The crude material was purified by HPLC Method A to afford 24.7 mg of the title compound.

reactant | 6-phenoxy-pyridine-3-carbaldehyde | 198 μmol, 39 mg | O(C1=CC=CC=C1)C1=CC=C(C=N1)C=O | C12H9NO2
reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 132 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
product | 5-Ethyl-2-fluoro-4-{3-[5-(6-phenoxy-pyridin-3-ylmethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl]-1H-indazol-6-yl}-phenol | 24.7 mg | C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)CC=2C=NC(=CC2)OC2=CC=CC=C2)N1 | C33H29FN6O2
